US08242129B2
To a sealed pressure vessel was added (E)-tert-butyl 4-((4-(3-(4-hydroxy-3-methylphenyl)acryloyl)-3-methylphenoxy)methyl)piperidine-1-carboxylate (100 mg, 0.215 mmol), 4N HCl in dioxanes (2.0 mL), and urea (64 mg, 1.07 mmol). The pressure vessel was sealed and heated to 110° C. overnight. The reaction was then cooled to rt, concentrated via rotary evaporation and purified via preparatory HPLC (5-85% AmAc) to give 4-(4-hydroxy-3-methylphenyl)-6-(2-methyl-4-(piperidin-4-ylmethoxy)phenyl)pyrimidin-2(1H)-one (6.0 mg, 7% yield).

reactant | (E)-tert-butyl 4-((4-(3-(4-hydroxy-3-methylphenyl)acryloyl)-3-methylphenoxy)methyl)piperidine-1-carboxylate | 0.215 mmol, 100 mg | OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C=C(OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C)C | C28H35NO5
reactant | HCl | 4N | Cl | ClH
reactant | urea | 1.07 mmol, 64 mg | NC(=O)N | CH4N2O
product | 4-(4-hydroxy-3-methylphenyl)-6-(2-methyl-4-(piperidin-4-ylmethoxy)phenyl)pyrimidin-2(1H)-one | 6.0 mg, 7% yield | OC1=C(C=C(C=C1)C1=NC(NC(=C1)C1=C(C=C(C=C1)OCC1CCNCC1)C)=O)C | C24H27N3O3
